US06562989B2
N-(4-cyanophenyl)benzylamine (Table 8, Entry 3)
According to the general procedure A, 4-chlorobenzonitrile (69 mg, 0.50 mmol) reacted with benzylamine (54 mg, 0.50 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 50° C. for 24 h to give the title compound (81 mg, 76%) as a solid: 1H-NMR (300 MHz, CDCl3): δ 7.41 (d, 2H, J=8.7 Hz), 7.36 (m, 5H), 6.61 (d, 2H, J=8.4 Hz), 4.73 (bs, 1H), 4.39 (d, 2H, J=5.4 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 151.05, 137.76, 133.67, 128.82, 127.64, 127.26, 120.36, 112.36, 98.99, 47.42. GC/MS(E): m/z 208 (M+), 209.

reactant | 4-chlorobenzonitrile | 0.50 mmol, 69 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | benzylamine | 0.50 mmol, 54 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-cyanophenyl)benzylamine | 81 mg, 76% | C(#N)C1=CC=C(C=C1)NCC1=CC=CC=C1 | C14H12N2
